US08026261B2
A clear solution of 3-(benzyloxy)-2-methyl-4H-pyran-4-one (150 g, 0.69 mol), ethanol (300 mL) and ammonium hydroxide (28.0-30.0% solution, 690 mL, 10.5 mol) in a 2 L 3-necked round bottom flask equipped with a mechanical stirrer was heated to reflux for 5 h. The reaction mixture was allowed to cool to room temperature, and a further 230 mL of ammonium hydroxide (3.5 mol) was added. The resulting solution was heated to reflux for another 3.5 h, then allowed to cool to RT and stirred for overnight. A solid product had separated, and was collected by suction filtration. Thus, 95 g of 3-benzyloxy-2-methyl-1H-pyridin-4-one (64% yield) was obtained as a first crop. HPLC Method 4 (Example 24), RT=10.7 min, HPLC purity (peak percent area): 99% at λ=280 nm)). 1H NMR (DMSO-d6) δ ppm: 11.3 (br s, 1H), 7.46 (s, 1H), 7.35, (m, 5H), 6.13 (s, 1H), 5.04 (s, 2H), 2.05 (s, 3H); 1H NMR (DMSO-d6+D2O) δ ppm: 7.47 (d, J=7.0 Hz, 1H), 7.39, (m, 5H), 6.20 (d, J=7.0 Hz, 1H), 5.01 (s, 2H), 2.03 (s, 3H).

reactant | 3-(benzyloxy)-2-methyl-4H-pyran-4-one | 0.69 mol, 150 g | C(C1=CC=CC=C1)OC1=C(OC=CC1=O)C | C13H12O3
reactant | ammonium hydroxide | 10.5 mol, 690 mL | [OH-].[NH4+]
reactant | ammonium hydroxide | 3.5 mol, 230 mL | [OH-].[NH4+]
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 3-benzyloxy-2-methyl-1H-pyridin-4-one | 95 g, 64% yield | C(C1=CC=CC=C1)OC1=C(NC=CC1=O)C | C13H13NO2
